US06617299B1
To a solution of N-[di(2-pyridinyl)methyl]-N-[(Z)-2-pyridinylmethylidene]amine (1.5 g, 5.5 mmol) in methanol (20 ml) was added NaBH4 (0.45 g, 11.8 mmol) in small portions. After stirring at room temperature for 2 hours HCl (aq) is added until the pH<2. After stirring for 30 min 5 N NaOH (aq) is added until the pH>9. The methanol is removed through evaporation and the aqueous layer is extracted with ethyl acetate (3×30 ml). The combined ethyl acetate layers are washed with brine (30 ml) and dried (Na2SO4). Evaporation of the solvent gave N-[di(2-pyridinyl)methyl]-N-(2-pyridinylmethyl)amine (N3Py) (1.35 g, 89%) as a yellow oil. 1H-NMR (CDCl3, 300 MHz) δ 3.85 (s, 2H), 5.10 (s, 1H), 7.03 (m, 3H), 7.41 (m, 6H), 8.46 (m, 3H); 13C NMR (CDCl3, 50 MHz) δ 53.1 (t), 68.9 (d), 121.8 (d), 122.1 (d), 122.2 (d), 122.3 (d), 136.3 (d), 136.5 (d), 149.2 (d), 159.6 (s), 161.2 (s); MS (CI): m/z 277 (M+1).

reactant | N-[di(2-pyridinyl)methyl]-N-[(Z)-2-pyridinylmethylidene]amine | 5.5 mmol, 1.5 g | N1=C(C=CC=C1)C(\N=C/C1=NC=CC=C1)C1=NC=CC=C1 | C17H14N4
reactant | NaBH4 | 11.8 mmol, 0.45 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-[di(2-pyridinyl)methyl]-N-(2-pyridinylmethyl)amine | 1.35 g, 89% | N1=C(C=CC=C1)C(NCC1=NC=CC=C1)C1=NC=CC=C1 | C17H16N4
